US04845216
Alternatively, 3-cyano-2-(4-nitrophenylthio)-5-bromomethylpyridine is allowed to react in tetrahydrofuran with tri-(n-butyl)phosphine for ten hours. Following the addition of ether, the solid which forms is collected by filtration and washed with 1:1 tetrahydrofuran:ether to yield 8 3-cyano-2-(4-nitrophenylthio)pyridin-5-ylmethyl]-tri-(n-butyl)phosphonium bromide as a white solid; mp 175°-176° C.; NMR (CDCl3, 80 MHz) d 0.85-2.63(m, 27H), 4.76(d, 2H, J=15.4 Hz), 7.74(d, 2H, J=9.0 Hz), 8.26(d, 2H, J=9.0 Hz), 8.55 (brs, 1H), 8.79 (brs, 1H); IR (KBr) 2950, 2860, 2220, 1595, 1575, 1515, 1390, 1340, 1075 and 845 cm-1 ; HRMS 471.2116(M+ -HBr), Calc'd. for C25H34N3O2PS471.2109.

reactant | 3-cyano-2-(4-nitrophenylthio)-5-bromomethylpyridine | C(#N)C=1C(=NC=C(C1)CBr)SC1=CC=C(C=C1)[N+](=O)[O-] | C13H8BrN3O2S
reactant | tri-(n-butyl)phosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tri-(n-butyl)phosphonium bromide | [Br-].C(CCC)[PH+](CCCC)CCCC | InChI=1S/C12H27P.BrH/c1-4-7-10-13(11-8-5-2)12-9-6-3;/h4-12H2,1-3H3;1H
